US08476297B2
N-Methyl-N-phenyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of N-phenyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide (100 mg, 0.252 mmol, example 9 (step 3) in THF (1 mL) was added sodium hydride (12 mg, 0.505 mmol) slowly. The resulting mixture was stirred at RT for 15 min and iodomethane (16 μL, 0.252 mmol) was added. The mixture was stirred at RT for 16 h. Then, H2O (2 mL) was added and the mixture was extracted with EtOAc (2×2 mL). The combined organic extracted were dried over MgSO4 and concentrated. The residue was then dissolved in DMSO (1 mL) and the solution mixture was purified by preparative HPLC (10%-400% of MeCN (0.1% TFA)/H2O (0.1% TFA) to give the title compound as an off-white solid. MS (ESI, positive ion) m/z: 411 (M+H).

reactant | N-phenyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | C1(=CC=CC=C1)NC(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O
reactant | sodium hydride | 0.505 mmol, 12 mg | [H-].[Na+]
reactant | iodomethane | 0.252 mmol, 16 μL | IC | CH3I
reactant | H2O | 2 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-phenyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | CN(C(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C24H21F3N2O
